US08168793B2
To a stirred solution of 3,4-bis-benzyloxy-N′-hydroxy-5-nitro-benzamidine (1.0 g, 2.54 mmol) in dimethylformamide (5 mL) at room temperature was added 1,1-carbonyldiimidazole (0.494 g, 3.048 mmol) in one portion and the mixture was stirred at room temperature for ninety minutes. Thereupon, acetic acid (0.184 g, 3.067 mmol) was added dropwise and the mixture was allowed to stir for two hours at room temperature, then at 155° C. for three hours. The mixture was allowed to cool to room temperature, and poured onto ice-water (100 mL). Brine (10 mL) was added and the resulting precipitate was removed by filtration, washed with water and dried in air. The solid was then dissolved in dichloromethane (20 mL) and a spatula tip of activated charcoal was added. After stirring for twenty minutes, the suspension was filtered through celite and the filtrate was evaporated to leave a yellow oil that solidified on standing. After recrystallisation from dichloromethane/petroleum ether, 3-(3,4-bis-benzyloxy-5-nitrophenyl)-5-methyl-[1,2,4]oxadiazole was obtained as a pale yellow solid (0.537 g, 51%).

reactant | 3,4-bis-benzyloxy-N′-hydroxy-5-nitro-benzamidine | 2.54 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C=C(C(=NO)N)C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-] | C21H19N3O5
reactant | acetic acid | 3.067 mmol, 0.184 g | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | Brine | 10 mL | [Cl-].[Na+].O
product | 3-(3,4-bis-benzyloxy-5-nitrophenyl)-5-methyl-[1,2,4]oxadiazole | C(C1=CC=CC=C1)OC=1C=C(C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-])C1=NOC(=N1)C | C23H19N3O5
